// Generated for: spectre
// Generated on: May  8 23:05:46 2022
// Design library name: test
// Design cell name: inv_1x
// Design view name: schematic
simulator lang=spectre
global 0

// Library name: test
// Cell name: inv_1x
// View name: schematic
subckt INV1X IN ZN VDD VSS
MN0 (ZN IN VSS VSS) nmos_lvt nf=1 w=0.42 l=0.15 m=1 as=0.1113 ad=0.1113 \
        ps=0.95 pd=0.95 nrd=0.333333 nrs=0.333333 sa=0.265 sb=0.265 \
        sd=0.28
MP0 (ZN IN VDD VDD) pmos nf=2 w=0.84 l=0.15 m=1 as=0.2226 ad=0.1176 ps=1.9 \
        pd=0.56 nrd=0.166667 nrs=0.166667 sa=0.265 sb=0.265 sd=0.28
ends INV1X 

// dspf_include "inv_1x.pex.netlist"
